US04812573
A stirred mixture of 2-acetyl-5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline (9.4 g), hydrochloric acid (140 ml, 3.0M) and n-butanol (14 ml) was heated under reflux for 6 hours. The solvents were evaporated under reduced pressure and the residue was recrystallised from ethanol to give 5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride as a white solid (7.8 g) m.p. 209°-21° C.

reactant | 2-acetyl-5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline | 9.4 g | C(C)(=O)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C1=CC=CC=C1 | C17H18N2O3S
reactant | hydrochloric acid | 3.0M, 140 ml | Cl | ClH
solvent | n-butanol | 14 ml | C(CCC)O | C4H10O
product | 5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride | 7.8 g | Cl.C1(=CC=CC=C1)S(=O)(=O)NC1=C2CCNCC2=CC=C1 | InChI=1S/C15H16N2O2S.ClH/c18-20(19,13-6-2-1-3-7-13)17-15-8-4-5-12-11-16-10-9-14(12)15;/h1-8,16-17H,9-11H2;1H
